US05736534
7-Chloro-4-(6-chloro-2,3-dihydro-indol-1-yl)-quinazoline
Utilizing a procedure analogous to that described in Example 24, this product was prepared in 50% yield from 6-chloro-indoline and 4,7-dichloro-quinazoline. (M.P. 189° C.; LC-MS: 316 (MH+)).

reactant | 6-chloro-indoline | ClC1=CC=C2CCNC2=C1 | C8H8ClN
reactant | 4,7-dichloro-quinazoline | ClC1=NC=NC2=CC(=CC=C12)Cl | C8H4Cl2N2
product | 7-Chloro-4-(6-chloro-2,3-dihydro-indol-1-yl)-quinazoline | 50% yield | ClC1=CC=C2C(=NC=NC2=C1)N1CCC2=CC=C(C=C12)Cl | C16H11Cl2N3
